US07323455B2
3-(5-Ethyl-2-oxo-5-thien-3-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-5-fluorobenzonitrile
Prepared from 7-bromo-5-ethyl-5-thien-3-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-cyano-5-fluorobenzeneboronic acid using the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.07 (s, 1H), 8.07 (t, J=1.5 Hz, 1H), 7.94 (dt, J=10.3, 2.0 Hz, 1H), 7.80 (m, 1H), 7.73 (dd, J=8.3, 2.0 Hz, 1H), 7.63 (d, J=2.4 Hz, 1H), 7.57 (dd, J=4.9, 2.9 Hz, 1H), 7.27 (m, 2H), 7.17 (dd, J=4.9, 1.5 Hz, 1H), 4.02 (d, J=15.6 Hz, 1H), 3.96 (d, J=15.6 Hz, 1H), 2.54 (m, 1H), 2.49 (m, 1H), 0.74 (t, J=7.3 Hz, 3H); MS (ES) m/z 393 (M+H)+.

reactant | 7-bromo-5-ethyl-5-thien-3-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C2=CSC=C2)CC)C1 | C15H14BrNO2S
reactant | 3-cyano-5-fluorobenzeneboronic acid | C(#N)C=1C=C(C=C(C1)F)B(O)O | C7H5BFNO2
product | 3-(5-Ethyl-2-oxo-5-thien-3-yl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-5-fluorobenzonitrile | C(C)C1(OCC(NC2=C1C=C(C=C2)C=2C=C(C#N)C=C(C2)F)=O)C2=CSC=C2 | C22H17FN2O2S
